US08957093B2
Step 2: (S)-4′-((5-((1-(3-chloro-4-methoxyphenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid
The title compound was prepared following the same general synthetic procedure as described in Steps 3-4, Example 2, starting with (S)-1-(3-chloro-4-methoxyphenyl)ethanaminium chloride and 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid instead of (S)-1-(4-(tert-butyl)phenyl)ethanaminium chloride and 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. ESI-MS (m/z): 567 [M+1]+.

reactant | (S)-1-(3-chloro-4-methoxyphenyl)ethanaminium chloride | [Cl-].ClC=1C=C(C=CC1OC)[C@H](C)[NH3+]
reactant | 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | (S)-4′-((5-((1-(3-chloro-4-methoxyphenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid | ClC=1C=C(C=CC1OC)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C)C | C34H31ClN2O4
